US07737166B2
2-Cyclopropyl-7-[2-(dimethylamino)ethyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#149)
Raney nickel (corresponding to 0.2 ml) was added to an ethanol (1 ml)/tetrahydrofuran (1 ml) solution of 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylethanethioamide (I-314) (14.0 mg, 0.037 mmol), followed by stirring in an oil bath at 50° C. for 5 hours. The reaction liquid was filtered, the filtrate was concentrated, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v) to obtain the entitled compound (6.00 mg, 47%) as a white solid.

reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylethanethioamide | 0.037 mmol, 14.0 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(N(C)C)=S)C2=CC=CC=C2)C | C22H21N3OS
catalyst | Raney nickel | 0.2 ml | [Ni] | Ni
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-Cyclopropyl-7-[2-(dimethylamino)ethyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 6.00 mg, 47% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2CCN(C)C)C2=CC=CC=C2)C)C#N | C22H23N3O
